US09056874B2
(±)-2-(1-(5,7-dimethyl-1H-indol-4-yl)-1-(dimethylamino)ethyl)-1H-benzo[d]imidazole-5-carbonitrile
The title compound was synthesized from a mixture of (±)-2-(1-(5,7-dimethyl-1-tosyl-1H-indol-4-yl)-1-(dimethylamino)ethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile and (±)-2-(1-(5,7-dimethyl-1-tosyl-1H-indol-4-yl)-1-(dimethylamino)ethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-6-carbonitrile as described in Example 102-B and 64-C. 1H NMR (400 MHz, CD3OD) δ ppm 7.56-8.08 (br. m, 2H), 7.55 (m, J=8.15, 1.20 Hz, 1H), 7.03 (d, J=3.23 Hz, 1H) 6.72 (s, 1H) 6.28 (d, J=3.23 Hz, 1H) 2.43 (s, 3H) 2.23 (s, 3H) 2.06 (s, 3H) 2.05 (s, 3H). HRMS calcd. for C23H26N5 (M+H)+ 358.2026. found 358.2010.

reactant | (±)-2-(1-(5,7-dimethyl-1-tosyl-1H-indol-4-yl)-1-(dimethylamino)ethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile | CC=1C(=C2C=CN(C2=C(C1)C)S(=O)(=O)C1=CC=C(C)C=C1)C(C)(N(C)C)C1=NC2=C(N1COCC[Si](C)(C)C)C=CC(=C2)C#N | C35H43N5O3SSi
reactant | (±)-2-(1-(5,7-dimethyl-1-tosyl-1H-indol-4-yl)-1-(dimethylamino)ethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-6-carbonitrile | CC=1C(=C2C=CN(C2=C(C1)C)S(=O)(=O)C1=CC=C(C)C=C1)C(C)(N(C)C)C1=NC2=C(N1COCC[Si](C)(C)C)C=C(C=C2)C#N | C35H43N5O3SSi
product | (±)-2-(1-(5,7-dimethyl-1H-indol-4-yl)-1-(dimethylamino)ethyl)-1H-benzo[d]imidazole-5-carbonitrile | CC=1C(=C2C=CNC2=C(C1)C)C(C)(N(C)C)C1=NC2=C(N1)C=CC(=C2)C#N | C22H23N5
